US05756505
To 500 ml of ethanol containing 4-hydroxy-3-nitrobenzoic acid (50.0 g) was added concentrated sulftuic acid (33.0 ml) and the resulting mixture was refluxed with stirring for 20 hours. After this reaction mixture was concentrated under a vacuum, the residue was diluted with water and then the crystal was collected by filtration. This crystal was suspended in water and neutralized in saturated aqueous sodium hydrogencarbonate solution. Thereafter, the crystal was collected by filtration, washed with water, and dried under a vacuum, thereby yielding 54.0 g of ethyl 4-hydroxy-3-nitrobenzoate. As in the case of Reference Example 4, this compound (46.6 g) was benzylated with 4-fluorobenzyl bromide (50.0 g) folowed by hydrolysis with potassium hydroxide, thereby yielding 58.0 g of 4-(4-fluorobenzyloxy)-3-nitrobenzoic acid. To 180 ml of a chloroform solution containing this compound (16.0 g), triethylamine (15.3 ml) and diphenylphosphinic chloride (10.5 ml) were added. After the resulting mixture was stirred for 1 hour, 1-isobutylpiperazine dihydrochloride (11.8 g) and triethylamine (15.3 ml) were added and the mixture was stirred for 13 hours at room temperature. The reaction mixture was successively washed with water, saturated aqueous sodium hydrogencarbonate solution, and saturated brine, dried over magnesium sulfate anhydride, and then concentrated under a vacuum. The residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:2 to 1:1), thereby yielding 19.8 g of 1-[4-(4-fluorobenzyloxy)-3-nitrobenzoyl]-4-isobutylpiperazine as a crystal. To 20 ml of ethyl acetate solution containing this compound (1.38 g), 1N hydrogen chloride ether solution (3.4 ml) was added. After the mixture was stirred for 15 minutes at room temperature, the resulting crystals were collected by filtration, thereby yielding 1.48 g of the aimed compound.

reactant | 4-hydroxy-3-nitrobenzoic acid | 50.0 g | OC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H5NO5
reactant | ethanol | 500 ml | C(C)O | C2H6O
product | ethyl 4-hydroxy-3-nitrobenzoate | 54.0 g | OC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H9NO5
